US05990142
23B 8-[(E)-2-[4-[4-(4-Fluorophenyl)butoxy]phenyl]ethen-1-yl]-4-oxo-4H-1-benzopyran-2-carbonitrile
Following the process described in example 2 (point D), reacting 8-[(E)-2-[4-[4-(4-fluorophenyl)butoxy]phenyl]ethen-1-yl]-4-oxo-4H-1-benzopyran-2-carboxamide with phosphorous oxychloride in DMF for 0.5 h at 0° C., the title compound was prepared (95% yield).

reactant | 8-[(E)-2-[4-[4-(4-fluorophenyl)butoxy]phenyl]ethen-1-yl]-4-oxo-4H-1-benzopyran-2-carboxamide | FC1=CC=C(C=C1)CCCCOC1=CC=C(C=C1)/C=C/C1=CC=CC=2C(C=C(OC21)C(=O)N)=O | C28H24FNO4
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-[(E)-2-[4-[4-(4-Fluorophenyl)butoxy]phenyl]ethen-1-yl]-4-oxo-4H-1-benzopyran-2-carbonitrile | 95% yield | FC1=CC=C(C=C1)CCCCOC1=CC=C(C=C1)/C=C/C1=CC=CC=2C(C=C(OC21)C#N)=O | C28H22FNO3
